US07504413B2
a) 3-cyano-4-[(1-methylethyl)oxy]benzohydrazide
A solution of 3-cyano-4-[(1-methylethyl)oxy]benzoic acid (0.300 g, 1.46 mmol) in tetrahydrofuran (10.0 mL) was treated with 1,1′-carbonyldiimidazole (0.261 g, 1.61 mmol). After stirring 2 h at ambient temperature, hydrazine monohydrate (0.213 mL, 4.39 mmol) was added. After stirring an additional 2 h at ambient temperature, the reaction mixture was concentrated in vacuo. Purification via flash column chromatography (0-5% MeOH/EtOAc) gave the title compound as a white solid (0.304 g; 95%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.51 (br. s., 1H) 8.06 (d, J=2.3 Hz, 1H) 8.02 (dd, J=8.8, 2.3 Hz, 1H) 7.00 (d, J=8.8 Hz, 1H) 5.15 (br. s., 2H) 4.71 (qq, J=6.1 Hz, 1H) 1.40 (d, J=6.1 Hz, 6H). MS (ES+) m/e 220 [M+H]+.

reactant | 3-cyano-4-[(1-methylethyl)oxy]benzoic acid | 1.46 mmol, 0.300 g | C(#N)C=1C=C(C(=O)O)C=CC1OC(C)C | C11H11NO3
reactant | 1,1′-carbonyldiimidazole | 1.61 mmol, 0.261 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydrazine monohydrate | 4.39 mmol, 0.213 mL | O.NN
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
product | 3-cyano-4-[(1-methylethyl)oxy]benzohydrazide | 0.304 g, 95% | C(#N)C=1C=C(C(=O)NN)C=CC1OC(C)C | C11H13N3O2
